US09388189B2
(S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (75 mg, 0.13 mmol) was treated with N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide (94 mg, 0.32 mmol), sodium carbonate (33 mg, 0.32 mmols), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (31 mg, 0.04 mmol) and 3 ml 1,2-dimethoxyethane and 0.75 ml water as a solvents according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 50% hexane-ethyl acetate) to obtain 65 mg (62% yield, 82% purity) of the title compound.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.13 mmol, 75 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide | 0.32 mmol, 94 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NS(=O)(=O)C)C | C13H20BNO4S
reactant | sodium carbonate | 0.32 mmols, 33 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 3 ml | COCCOC | C4H10O2
solvent | water | 0.75 ml | O | H2O
product | (S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 62% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=CC=C(C=C1)NS(=O)(=O)C)COCC[Si](C)(C)C | C34H40N8O4SSi
